US03954438
N-Ethyl-3-methoxy-6-nitro-4-trifluoromethylaniline
A solution of 14.0g. (0.052 mole) of N-ethyl-3-chloro-6-nitro-4-trifluoromethylaniline and 16.98g. (0.057 mole) of 18.23% methanolic sodium methoxide in 25 ml. of anhydrous methanol was sealed in a glass tube and heated at 119°C. for 88 hours. Removal of the solvent by distillation left a yellow solid residue which was triturated with hot chloroform. Filtration and evaporation of chloroform from the filtrate gave a crude solid residue. Crystallization of the residue from ethanol gave 12.4g. of yellow crystalline product, m.p. 140.5°-141.5°C. shown by its nmr spectrum to be the desired methoxyaniline.

reactant | N-ethyl-3-chloro-6-nitro-4-trifluoromethylaniline | 0.052 mole | C(C)NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)Cl | C9H8ClF3N2O2
reactant | sodium methoxide | 0.057 mole | C[O-].[Na+]
reactant | methoxyaniline | CONC1=CC=CC=C1 | C7H9NO
solvent | methanol | CO | CH4O
product | N-Ethyl-3-methoxy-6-nitro-4-trifluoromethylaniline | C(C)NC1=CC(=C(C=C1[N+](=O)[O-])C(F)(F)F)OC | C10H11F3N2O3
